* Extracted by KLayout with SG13G2 LVS runset on : 12/03/2026 18:50

.SUBCKT pulse_gen_circuit PHI2 IN GND PHI4 PHI2$1 B|OUT PHI1 OUT OUT$1 VDD out
+ CLK A|PHI1 PHI3 OUT$2
M$1 GND \$7 PHI4 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$2 GND IN \$6 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$3 \$6 PHI2$1 \$7 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$4 GND B|OUT IN GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$5 IN PHI1 GND GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$6 GND IN \$3 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$7 GND OUT PHI2 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$8 GND PHI2 \$4 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$9 GND \$20 OUT GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$10 GND \$3 \$20 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$11 GND OUT$1 PHI2$1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$12 GND \$22 OUT$1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$13 GND \$4 \$22 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$14 GND CLK B|OUT GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$15 GND PHI2 out GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$16 out CLK GND GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$17 GND \$57 PHI3 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$18 GND out \$55 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$19 \$55 A|PHI1 \$57 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$20 GND out \$48 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$21 GND \$66 PHI1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$22 GND \$65 \$66 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$23 GND \$48 \$65 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$24 GND PHI1 \$49 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$25 GND OUT$2 A|PHI1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$26 GND \$67 OUT$2 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$27 GND \$49 \$67 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$28 VDD IN \$7 VDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$29 \$7 PHI2$1 VDD VDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$30 VDD \$7 PHI4 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$31 IN B|OUT \$32 VDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$32 \$32 PHI1 VDD VDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$33 VDD IN \$3 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$34 VDD OUT PHI2 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$35 VDD PHI2 \$4 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$36 VDD \$20 OUT VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$37 VDD \$3 \$20 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$38 VDD OUT$1 PHI2$1 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$39 VDD \$22 OUT$1 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$40 VDD \$4 \$22 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$41 VDD CLK B|OUT VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$42 out PHI2 \$52 VDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$43 \$52 CLK VDD VDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$44 VDD out \$57 VDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$45 \$57 A|PHI1 VDD VDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$46 VDD \$57 PHI3 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$47 VDD out \$48 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$48 VDD \$66 PHI1 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$49 VDD \$65 \$66 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$50 VDD \$48 \$65 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$51 VDD PHI1 \$49 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$52 VDD OUT$2 A|PHI1 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$53 VDD \$67 OUT$2 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$54 VDD \$49 \$67 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
C$55 \$3 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$56 \$4 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$57 \$48 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$58 \$49 GND cap_cmim w=7u l=7u A=49p P=28u m=1
.ENDS pulse_gen_circuit
